US06200957B1
Step 2E 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropan-1-one
A mixture of 80.2 mg (0.115 mmol) of [2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxoethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(pyridin-3yl)butyl]carbamic acid benzyl ester, 40 mg of 10% palladium on carbon, 4 mL of absolute ethanol, and 4 mL of ethyl acetate was shaken with hydrogen (46 psig) in a pressure vessel for 6 hours. The catalyst was removed by filtration through Celite under nitrogen, and the filtrate was concentrated in vacuo at room temperature. The residue was purified by preparative TLC on 4 Analtech tapered silica gel plates (20×20 cm), which were developed in 92.5:7.5:0.75 CH2Cl2-MeOH-concentrated NH4OH. The product band from each plate was isolated, combined, and extracted with 92.5:7.5:0.75 CH2C12-MeOH-concentrated NH4OH. Concentration of the extracts in vacuo yielded 53.8 mg (81%) of a pale yellow, stiff gum or glass; essentially homogeneous by TLC in 92.5:7.5:0.75 CH2Cl2-MeOH-concentrated MeOH-concentrated NH4OH. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure. Mass spectrum (ESI): m/e=563.5 (M+H).

reactant | [2-[5-[2-(7-azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxoethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(pyridin-3yl)butyl]carbamic acid benzyl ester | 0.115 mmol, 80.2 mg | C(C1=CC=CC=C1)OC(N(CCCCC=1C=NC=CC1)CCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C45H52N4O3
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropan-1-one | C12CCC(CC1)N2C(C(C)(C)C=2C=C1C(=C(NC1=CC2)C2=CC(=CC(=C2)C)C)CCNCCCCC=2C=NC=CC2)=O | C37H46N4O
